US04342764
A solution of 52.9 of cyanogen bromide in 300 ml of toluene is added dropwise in the course of 1 hour to a solution of 44.1 g (0.5 mol) of N,N'-dimethyl-ethylenediamine in 300 ml of toluene, with stirring. The reaction mixture is stirred for a further two hours at 80°. The mixture is allowed to cool to room temperature and is filtered and the residue is washed with ether. The crude 1,3-dimethyl-2-imino-imidazolidine hydrobromide obtained after drying in vacuo melts at 153°-160°.

reactant | cyanogen bromide | N#CBr | CBrN
reactant | N,N'-dimethyl-ethylenediamine | 0.5 mol, 44.1 g | CNCCNC | C4H12N2
solvent | toluene | 300 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 300 ml | C1(=CC=CC=C1)C | C7H8
product | 1,3-dimethyl-2-imino-imidazolidine hydrobromide | Br.CN1C(N(CC1)C)=N | InChI=1S/C5H11N3.BrH/c1-7-3-4-8(2)5(7)6;/h6H,3-4H2,1-2H3;1H
